US08497264B2
A mixture of 2,5-dibromobenzoic acid (1244 g, 4.44 mol), 5-hydroxy-2-chloropyridine (663.3 g, 5.12 mol) and cesium carbonate (2893.3 g, 8.88 mol) was stirred for 20 minutes under a nitrogen atmosphere. To this slurry were added copper (I) trifloromethanesulfonate toluene complex (59.7 g, 0.115 mol), toluene (9 L) and EtOAc (39 mL). The resulting suspension was heated to 105° C. and stirred for 2 h before being cooled to RT. The toluene was decanted, and water (8 L) and EtOAc (8 L) were added. The resulting mixture was stirred until the solid was completely dissolved. The EtOAc layer was separated and the pH of the aqueous layer was adjusted to pH 2˜3 with 6N HCl. The aqueous layer was extracted with EtOAc (3×5 L). The combined organic layers were dried over Na2SO4, filtered and concentrated to give 1.28 Kg of 5-bromo-2-(6-chloropyridin-3-yloxy)benzoic acid as brown solid. This material was used in next step without further purification.

reactant | 2,5-dibromobenzoic acid | 4.44 mol, 1244 g | BrC1=C(C(=O)O)C=C(C=C1)Br | C7H4Br2O2
reactant | 5-hydroxy-2-chloropyridine | 5.12 mol, 663.3 g | OC=1C=CC(=NC1)Cl | C5H4ClNO
reactant | cesium carbonate | 8.88 mol, 2893.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 9 L | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 39 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2-(6-chloropyridin-3-yloxy)benzoic acid | 1.28 Kg | BrC=1C=CC(=C(C(=O)O)C1)OC=1C=NC(=CC1)Cl | C12H7BrClNO3
